US04902335
A mixture of 4-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-7-nitro-2H-1,4-benzoxazin-3(4H)-one (3.2 g) and ethanol (40 ml) was prepared. To this mixture was added a solution of stannous chloride dihydrate (11.3 g) in concentrated hydrochloric acid (44 ml) at a temperature of 10° to 20° C. The reaction mixture was stirred at a temperature of 60° to 70° C., and distilled to dryness under a reduced pressure. The resulting residue was admixed with ice (150 g). To the mixture thus obtained was added dropwise a 25% aqueous potassium hydroxide solution at a temperature of 0° to 10° C. to render the mixture alkaline. The resultant alkaline solution was extracted with dichloromethane (80 ml×2). The dichloromethane layer was washed with water, and dried over anhydrous sodium sulfate. The dichloromethane solvent was distilled off under a reduced pressure, and the resultant solid residue (1.3 g) was recrystallized from toluene, so that the aimed compound, i.e. 7-amino-4-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2H-1,4-benzoxazin-3(4H)-one (1.1 g) was obtained. m.p. 146°-147.5° C.

reactant | 4-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-7-nitro-2H-1,4-benzoxazin-3(4H)-one | 3.2 g | CC1=NC(=NO1)CN1C(COC2=C1C=CC(=C2)[N+](=O)[O-])=O | C12H10N4O5
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | hydrochloric acid | 44 ml | Cl | ClH
product | 7-amino-4-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2H-1,4-benzoxazin-3(4H)-one | 1.1 g | NC1=CC2=C(N(C(CO2)=O)CC2=NOC(=N2)C)C=C1 | C12H12N4O3
